### PR TITLE
[Merged by Bors] - feat: `r < stdPart x → r < x`

### PR DESCRIPTION
**Pull request by vihdzp**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by YaelDillies** [comment]
Isn't there a Galois connection hiding here?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 1]
```diff
@@ -422,7 +425,25 @@ theorem mk_sub_pos_iff (f : ℝ →+*o K) {r : ℝ} (hx : 0 ≤ mk x) :
...
+  · simpa using f.monotone' h.le
+
+theorem lt_of_stdPart_lt (f : ℝ →+*o K) {r : ℝ} (hx : 0 ≤ mk x) (h : stdPart x < r) : x < f r := by
+  rw [← neg_lt_neg_iff, ← map_neg]
+  apply lt_of_lt_stdPart <;> simpa
+
+theorem stdPart_le_of_le (f : ℝ →+*o K) {r : ℝ} (hx : 0 ≤ mk x) (h : x ≤ f r) : stdPart x ≤ r :=
+  le_imp_le_iff_lt_imp_lt.2 (lt_of_lt_stdPart f hx) h
+
+theorem lt_stdPart_of_lt (f : ℝ →+*o K) {r : ℝ} (hx : 0 ≤ mk x) (h : f r ≤ x) : r ≤ stdPart x :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]:
```suggestion
theorem le_stdPart_of_le (f : ℝ →+*o K) {r : ℝ} (hx : 0 ≤ mk x) (h : f r ≤ x) : r ≤ stdPart x :=
```

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 2]
```diff
@@ -422,7 +425,25 @@ theorem mk_sub_pos_iff (f : ℝ →+*o K) {r : ℝ} (hx : 0 ≤ mk x) :
...
+  le_imp_le_iff_lt_imp_lt.2 (lt_of_stdPart_lt f hx) h
+
+theorem stdPart_eq (f : ℝ →+*o K) {r : ℝ} (hl : ∀ s < r, f s ≤ x) (hr : ∀ s > r, x ≤ f s) :
     stdPart x = r := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean:447]: Can you not golf this with trichotomy and your new lemmas?

Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean:447]: I hadn't even noticed this, thanks for the suggestion!

**Review by YaelDillies — COMMENTED** [review]
I still believe there is some Galois-connection-like statement to be written, but I can't quite come up with it. The issue is that `stdPart` is more like `round` than `floor`, and it's `floor` that has a Galois connection. Let's keep that for later.

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
